US07432227B2
To a solution of methyl 3-chloro-6-(methoxymethyl)pyridine-2-carboxylate 1-oxide (1.64 g, 7.08 mmol) in acetonitrile (28 mL) was added phosphorus oxychloride (1.32 mL, 14.16 mmol) and the mixture stirred at reflux for 4 hours. After cooling to room temperature the mixture was concentrated to dryness in vacuo. The residue was diluted with ethyl ether and carefully washed with saturated NaHCO3 solution. The organic layer was separated and the aqueous layer was extracted with ethyl ether. After the organic layers were combined, the solution was dried (MgSO4), filtered and concentrated to dryness to give crude methyl 3,4-dichloro-6-(methoxymethyl)pyridine-2-carboxylate (1.74 g) as a yellow oil; 1H NMR (CDCl3): δ 7.70 (s, 1H), 4.60 (s, 2H), 4.00 (s, 3H), 3.40 (s, 3H).

reactant | methyl 3-chloro-6-(methoxymethyl)pyridine-2-carboxylate 1-oxide | 7.08 mmol, 1.64 g | ClC1=C([N+](=C(C=C1)COC)[O-])C(=O)OC | C9H10ClNO4
reactant | phosphorus oxychloride | 14.16 mmol, 1.32 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | acetonitrile | 28 mL | C(C)#N | C2H3N
product | methyl 3,4-dichloro-6-(methoxymethyl)pyridine-2-carboxylate | 1.74 g | ClC=1C(=NC(=CC1Cl)COC)C(=O)OC | C9H9Cl2NO3
